* source NASCAMARIANPROIECTCAD
.EXTERNAL OUTPUT +VCC
.EXTERNAL OUTPUT -VCC
Q_Q1         N14397 N14397 +VCC Q2SA562
Q_Q2         N14486 N14397 +VCC Q2SA562
R_RezistentaSenzor         0 N14486 R_RezistentaSenzor {r} TC=0,0 
.model        R_RezistentaSenzor RES R=1 DEV=0.5% TC1=0 TC2=0
V_V1         +VCC 0 15Vdc
V_V2         -VCC 0 -15Vdc
X_U2         N15935 VREF +VCC -VCC VREF LM118
R_R6         +VCC N15935 R_R6 1.04k TC=0,0 
.model        R_R6 RES R=1 DEV=0.5% TC1=0 TC2=0
R_R7         0 N15935 R_R7 1.06k TC=0,0 
.model        R_R7 RES R=1 DEV=0.5% TC1=0 TC2=0
X_U3         N16344 N16580 +VCC -VCC N16671 LM118
R_R4         N15621 N16344 R_R4 2k TC=0,0 
.model        R_R4 RES R=1 DEV=0.5% TC1=0 TC2=0
R_R5         0 N16344  4.7k TC=0,0 
R_R3         N16580 N16671 R_R3 4.7k TC=0,0 
.model        R_R3 RES R=1 DEV=0.5% TC1=0 TC2=0
R_R2         VREF N16580 R_R2 2k TC=0,0 
.model        R_R2 RES R=1 DEV=0.5% TC1=0 TC2=0
X_U4         N14486 N15621 +VCC -VCC N15621 LM118
X_U5         N18284 N16671 +VCC -VCC OUT2 LM118
R_R11         0 N18090 R_R11 10 TC=0,0 
.model        R_R11 RES R=1 DEV=0.5% TC1=0 TC2=0
R_R10         +VCC N18090 R_R10 3.97 TC=0,0 
.model        R_R10 RES R=1 DEV=0.5% TC1=0 TC2=0
X_U6         N18090 VREF2 +VCC -VCC VREF2 LM118
R_R8         VREF2 N18284 R_R8 1k TC=0,0 
.model        R_R8 RES R=1 DEV=0.5% TC1=0 TC2=0
R_R9         N18284 OUT2 R_R9 4.27k TC=0,0 
.model        R_R9 RES R=1 DEV=0.5% TC1=0 TC2=0
V_V3         N18859 0 15V
D_D1         N18859 N18863 DiodaAlbastra 
R_RdiodaTest         0 N18863  630 TC=0,0 
R_R12         OUT2 N20331 R_R12 402 TC=0,0 
.model        R_R12 RES R=1 DEV=0.5% TC1=0 TC2=0
D_D2         N198520 0 DiodaAlbastra 
Q_Q3         N20016 N20012 0 Q2N1566
R_RLimitare         OUT2 N20012 R_RLimitare 1k TC=0,0 
.model        R_RLimitare RES R=1 DEV=0.5% TC1=0 TC2=0
R_R14         N20016 +VCC R_R14 3.4k TC=0,0 
.model        R_R14 RES R=1 DEV=0.5% TC1=0 TC2=0
R_R13         N20331 N198520 R_R13 229 TC=0,0 
.model        R_R13 RES R=1 DEV=0.5% TC1=0 TC2=0
R_R0         N204421 N14397 R_R0 20k TC=0,0 
.model        R_R0 RES R=1 DEV=0.5% TC1=0 TC2=0
R_R1         0 N204421 R_R1 6.49k TC=0,0 
.model        R_R1 RES R=1 DEV=0.5% TC1=0 TC2=0
.PARAM  r=14k
